US07288659B2
methyl (3,5-difluorophenyl)fluoroacetate
2.3 g of N-ethyl-N-(trifluoro-λ4-sulfanyl)-1-ethanamine are added dropwise at 20° C. to 2 g of methyl 3,5-difluoromandelate, obtained in step 2.1, in solution in 25 ml of dichloromethane, and the mixture is stirred for 18 hours at room temperature. The reaction medium is taken up in dichloromethane and washed with water, with a saturated aqueous sodium hydrogen carbonate solution, and then with a hydrochloric acid solution (0.5 N). The organic phase is dried over anhydrous sodium sulfate and concentrated to give 1.9 g of oil.

reactant | N-ethyl-N-(trifluoro-λ4-sulfanyl)-1-ethanamine | 2.3 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methyl 3,5-difluoromandelate | FC=1C=C(C(C(=O)OC)O)C=C(C1)F | C9H8F2O3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl (3,5-difluorophenyl)fluoroacetate | 1.9 g | FC=1C=C(C=C(C1)F)C(C(=O)OC)F | C9H7F3O2
